US07776874B2
Step 3 substitute. 1-[6-(benzyloxy)pyridin-3-yl]cyclopropanecarboxylic acid
Following the BOP coupling the desired product, (1R)-1′-({1-[6-(benzyloxy)pyridin-3-yl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one, was purified by prep-HPLC. LC/MS: 441.2 (MAT).

reactant | BOP | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | (1R)-1′-({1-[6-(benzyloxy)pyridin-3-yl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | C(C1=CC=CC=C1)OC1=CC=C(C=N1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C27H24N2O4
product | 1-[6-(benzyloxy)pyridin-3-yl]cyclopropanecarboxylic acid | C(C1=CC=CC=C1)OC1=CC=C(C=N1)C1(CC1)C(=O)O | C16H15NO3
